US07897597B2
Under a nitrogen atmosphere, a solution of 6-benzyloxy-N4-methylquinoline-3,4-diamine (7.88 g, 28.2 mmol), prepared as described in Parts A-F of Example 57, in dichloromethane (300 mL) was cooled to 0° C.; triethylamine (4.2 mL, 30.3 mmol) was added. Methoxypropionyl chloride (3.3 mL, 30.6 mmol) was added dropwise over a period of five minutes, and the reaction was stirred at ambient temperature for 90 minutes. The volatiles were removed under reduced pressure, and the residue was dissolved in ethanol (300 mL) and triethylamine (13 mL) and heated at 75° C. over two nights. The volatiles were removed under reduced pressure, and the residue was dissolved in chloroform. The resulting solution was washed with deionized water (3×200 mL) and concentrated under reduced pressure. Small volumes of hexanes and dichloromethane were added, and a white precipitate formed, which was isolated by filtration and washed with hexanes to provide 3.76 g of 8-benzyloxy-2-(2-methoxyethyl)-1-methyl-1H-imidazo[4,5-c]quinoline as a white solid.

reactant | 6-benzyloxy-N4-methylquinoline-3,4-diamine | 28.2 mmol, 7.88 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)N)NC | C17H17N3O
reactant | triethylamine | 30.3 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | Methoxypropionyl chloride | 30.6 mmol, 3.3 mL | COCCC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 8-benzyloxy-2-(2-methoxyethyl)-1-methyl-1H-imidazo[4,5-c]quinoline | 3.76 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3C)CCOC | C21H21N3O2
